US05948820
(5) 2-Amino-2-ethyl-4-(4-(4-phenylbutyloxy)phenyl)butanol hydrochloride 1/4 hydrate
A solution of potassium hydroxide (5.8 g) in water (20 ml) was added to a solution of 4-ethyl-4-(2-(4-(4-phenylbutyloxy)phenyl)ethyl)oxazolidin-2-one (3.0 g) in methanol (60 ml) and tetrahydrofuran (50 ml). The mixture was refluxed under heating for 18.5 hours while stirring. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was distilled away under reduced pressure to give a pale brown, oily substance. The oily substance was subjected to silica gel column chromatography (eluent; ethyl acetate then methanol) and the solvent was distilled away to give a pale brown residue. The obtained residue was dissolved in methanol and thereto was added a 1M solution of hydrochloric acid in ether. The solution was concentrated under reduced pressure, and the obtained crude crystals were recrystallized from isopropyl ether and hexane to give the subject compound (0.63 g) as white crystals, melting at 101-103° C.

reactant | potassium hydroxide | 5.8 g | [OH-].[K+]
reactant | 4-ethyl-4-(2-(4-(4-phenylbutyloxy)phenyl)ethyl)oxazolidin-2-one | 3.0 g | C(C)C1(NC(OC1)=O)CCC1=CC=C(C=C1)OCCCCC1=CC=CC=C1 | C23H29NO3
reactant | hydrochloric acid | Cl | ClH
solvent | water | 20 ml | O | H2O
solvent | methanol | 60 ml | CO | CH4O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2-Amino-2-ethyl-4-(4-(4-phenylbutyloxy)phenyl)butanol hydrochloride | 0.63 g | Cl.NC(CO)(CCC1=CC=C(C=C1)OCCCCC1=CC=CC=C1)CC | InChI=1S/C22H31NO2.ClH/c1-2-22(23,18-24)16-15-20-11-13-21(14-12-20)25-17-7-6-10-19-8-4-3-5-9-19;/h3-5,8-9,11-14,24H,2,6-7,10,15-18,23H2,1H3;1H
